US07691843B2
To a stirred solution of 3,5-dihydroxybenzoic acid methyl ester (10.0 g, 59.5 mmol) in DMF (200 mL) at 0° C. was added NaH (60% dispersion in mineral oil, 5.00 g, 125 mmol, 2.1 eq.) in small portions. The reaction mixture was stirred at 0° C. for 15 min then warmed to room temperature. After 1 h, the reaction mixture was cooled to 0° C. and then added dimethylthiocarbamoyl chloride (14.7 g, 119 mmol). Following the addition, the reaction was stirred for 45 min at 0° C., then for 30 min at room temperature and then heated to 80° C. After 2 h at 80° C., the reaction mixture was cooled to room temperature and then added to 1% aqueous KOH (500 mL). The resulting mixture was extracted with ethyl ether (2×500 mL). The organic layer was washed with H2O (500 mL), brine (300 mL), dried over MgSO4 and concentrated in vacuo to afford 3,5-bis-dimethylthiocarbamoyloxybenzoic acid methyl ester (13.0 g). This material was used without further purification.

reactant | 3,5-dihydroxybenzoic acid methyl ester | 59.5 mmol, 10.0 g | COC(C1=CC(=CC(=C1)O)O)=O | C8H8O4
reactant | NaH | 125 mmol, 5.00 g, 2.1 eq. | [H-].[Na+]
reactant | dimethylthiocarbamoyl chloride | 119 mmol, 14.7 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | KOH | 500 mL | [OH-].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 3,5-bis-dimethylthiocarbamoyloxybenzoic acid methyl ester | 13.0 g | COC(C1=CC(=CC(=C1)OC(N(C)C)=S)OC(N(C)C)=S)=O | C14H18N2O4S2
